US07772285B2
1.00 g of 2-[4-(bromomethyl)phenyl]acetic acid was suspended in 5 mL of a 4M solution of hydrogen chloride in ethanol, and this suspension was stirred for 2 hours at room temperature. The reaction mixture was concentrated under reduced pressure to yield 0.954 g of ethyl 2-[4-(bromomethyl)phenyl]acetate as light brown oil.

reactant | 2-[4-(bromomethyl)phenyl]acetic acid | 1.00 g | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | ethyl 2-[4-(bromomethyl)phenyl]acetate | 0.954 g | BrCC1=CC=C(C=C1)CC(=O)OCC | C11H13BrO2
